US05656629
A mixture of 4-(1-imidazolyl)benzaldehyde (5.08 g, 29.5 mmol) and methyl(methylthio)methylsulfoxide (2.57g, 21 mmol) in THF (5 mL) was treated with a 40% methanolic solution of TRITON® B (3 mL). The reaction mixture was refluxed for 4 hours, additional methyl(methylthio)methylsulfoxide (1.09 g, 8.5 mmol) was added and the reaction mixture was refluxed for an additional 2 hours. The reaction mixture was cooled to room temperature, CH2Cl2 was added and the organic layer was washed with water, then brine and then was dried over MgSO4, filtered and stripped. The residue was taken up in ethanolic HCl (180 mL) and refluxed for 16 hours. The reaction mixture was cooled, the ethanol was stripped and the residue was treated with water (200 mL) and extracted with ethyl acetate (250 mL). The aqueous layer was treated with dilute NH4OH and extracted with ethyl acetate (2×) and then the organic layer was washed with brine, dried over MgSO4, filtered and stripped to afford crude product. The crude product was taken up in ethyl acetate, shaken with 25% sodium bisulfite and then brine. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4, filtered and stripped to afford 1.93 g of ethyl 4-(1-imidazolyl)phenylacetate.

reactant | 4-(1-imidazolyl)benzaldehyde | 29.5 mmol, 5.08 g | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | methyl(methylthio)methylsulfoxide | 21 mmol, 2.57g | CC(SC)S(=O)C(C)SC | C6H14OS3
reactant | methyl(methylthio)methylsulfoxide | 8.5 mmol, 1.09 g | CC(SC)S(=O)C(C)SC | C6H14OS3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | ethyl 4-(1-imidazolyl)phenylacetate | 1.93 g | N1(C=NC=C1)C1=CC=C(C=C1)CC(=O)OCC | C13H14N2O2
